US07141596B2
Step 4. tert-Butyl [(1S)-2-[3-bromo-4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]-1-(5-phenyl-1-[2-(trimethylsilyl)ethoxy]methyl-1H-imidazol-2-yl)ethyl]carbamate
A solution of tert-butyl [(1S)-2-(3-bromo-4-iodophenyl)-1-(5-phenyl-1-[2-(trimethylsilyl)ethoxy]methyl-1H-imidazol-2-yl)ethyl]carbamate (130 mg, 112 μmol), 2-tert-butylisothiazol-3(2H)-one 1,1-dioxide (42.3 mg, 223 μmol), triethylamine (46.7 mL, 335 μmol), palladium acetate (25.1 mg, 112 μmol), N,N-dimethylformamide (3.0 mL) and tetra-N-butylammonium chloride (31.0 mg, 112 μmol) was degassed and stirred at 70° C. for 2 h. The reaction was diluted with water and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (20.0 mg, 24%). MF=C35H47BrN4O6SSi; LCMS found for C35H48BrN4O6SSi (M+H)+: m/z=759.

reactant | tert-butyl [(1S)-2-(3-bromo-4-iodophenyl)-1-(5-phenyl-1-[2-(trimethylsilyl)ethoxy]methyl-1H-imidazol-2-yl)ethyl]carbamate | 112 μmol, 130 mg | BrC=1C=C(C=CC1I)C[C@@H](C=1N(C(=CN1)C1=CC=CC=C1)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O | C28H37BrIN3O3Si
reactant | 2-tert-butylisothiazol-3(2H)-one 1,1-dioxide | 223 μmol, 42.3 mg | C(C)(C)(C)N1S(C=CC1=O)(=O)=O | C7H11NO3S
reactant | triethylamine | 335 μmol, 46.7 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
catalyst | tetra-N-butylammonium chloride | 112 μmol, 31.0 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Cl-]
solvent | water | O | H2O
catalyst | palladium acetate | 112 μmol, 25.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-Butyl [(1S)-2-[3-bromo-4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]-1-(5-phenyl-1-[2-(trimethylsilyl)ethoxy]methyl-1H-imidazol-2-yl)ethyl]carbamate | 20.0 mg, 24% | BrC=1C=C(C=CC1C1=CC(N(S1(=O)=O)C(C)(C)C)=O)C[C@@H](C=1N(C(=CN1)C1=CC=CC=C1)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O | C35H47BrN4O6SSi
